US05166403
In 30 ml of ethanol was dissolved 4.31 g of the 4-(2-methylbutyloxy)phenylbenzyl ether thus obtained and after adding thereto 216 mg of palladium black and 8 ml of cyclohexene, the mixture was refluxed for one hour. After cooling, palladium black was filtered off and the solvent was distilled off from the filtrate under reduced pressure to obtain 3.03 g (yield 68%) of colorless oily 4-(2-methylbutyloxy)phenol.

reactant | 4-(2-methylbutyloxy)phenylbenzyl ether | 4.31 g | CC(COC1=CC=C(C=C1)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)C1=CC=C(C=C1)OCC(CC)C)CC | C36H42O3
reactant | cyclohexene | 8 ml | C1=CCCCC1 | C6H10
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium black | 216 mg | [Pd] | Pd
product | 4-(2-methylbutyloxy)phenol | 3.03 g, yield 68% | CC(COC1=CC=C(C=C1)O)CC | C11H16O2
